US07351778B2
Methyl 2-ethyl-3-hydroxybutyrate was prepared following the procedure as described in step 2) of Preparation Example 4, except for that methyl 2-ethyl-3-oxo-butyrate was used to replace for ethyl 2-ethyl-3-oxo-butyrate. Yield 50%.

reactant | methyl 2-ethyl-3-oxo-butyrate | C(C)C(C(=O)OC)C(C)=O | C7H12O3
reactant | ethyl 2-ethyl-3-oxo-butyrate | C(C)C(C(=O)OCC)C(C)=O | C8H14O3
product | Methyl 2-ethyl-3-hydroxybutyrate | Yield 50% | C(C)C(C(=O)OC)C(C)O | C7H14O3
